Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
Hydromorphone
 
Attending: ___.
 
Chief Complaint:
Low Back Pain
 
Major Surgical or Invasive Procedure:
L4-5,L5S1 Posterior Laminectomy Interbody Fusion with pedicle 
screws and bone marrow aspirate

 
History of Present Illness:
___ who had an MVA in ___ and soon after began to 
experience low back and right lower extremity pain.  She had 
been seen by a pain specialist who tried multiple modalities 
with epidural steroid injections being the only modality which 
provided her any relief.  MRI imaging of the spine showed large 
central disc protrusion at L4-5.  She was reffered to Dr. ___ 
___ neurosurgical evaluation. through discussion between Dr. 
___ the patient it was decided that posterior lumbar 
interbody fusion of L4-5 would be beneficial. She presented 
electively on ___ for the procedure.
 
Past Medical History:
COPD, Emphysema, degenerative lumbar spondylosis
 
Social History:
___
Family History:
NC
 
Physical Exam:
wdwn
a and o x3
ht rrr
lungs cta
ext no cce
neuro motor full, ___ intact

upon discharge:
neuro intact, wound cdi
MAE's x 4
 
Pertinent Results:
___ 12:05PM   HGB-10.5* calcHCT-32

Lumbar Films Post-OP:

FINDINGS: The patient is status post posterior lumbar fusion 
procedures with interbody fusion device is present at the L4-L5 
and L5-S1 levels. Pedicle screws traverse the L4, L5, and S1 
levels. 

Two lumbar radiographs obtained intraoperatively demonstrate one 
probe at L4 level. The second film demonstrates pedicle screws 
placed at L4, L5 and S1 with interbody fusion device. Please 
refer to operative note for full 
details.
 
Brief Hospital Course:
___ who presented electively on ___ for a posterior lumbar 
interbody fusion L4-5 with pedicle screws and bone marrow 
aspirate with Dr. ___.  She was taken to the OR and the 
procedure was completed without complications. She was 
transferred to the PACU post-operatively and then the floor when 
stable.  She had JP drain placed intra-op that was monitored and 
removed POD#2. her hematocrit was followed post operatively and 
iron supplement was initiated but then dipped down to 21 on 
___ and she was transfused with 2u PRBC. Post transfusion 
hematocrit was 26.6. Her diet and activity were advanced.  Her 
incision was clean and dry.  She was evaluated by ___ and 
recommended for rehab. Her foley was discharged on POD 3 and she 
voided without difficulty.

She went to Rehab via ambulance on ___
 
Medications on Admission:
albuterol,flexeril, valium, imitrex, percocet, trazadone, 
estradiol
 
Discharge Medications:
1. Ferrous Sulfate 300  mg (60 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
2. Diphenhydramine HCl 50 mg/mL Solution Sig: One (1)  Injection 
Q6H (every 6 hours) as needed for itching,.  
3. Ondansetron HCl (PF) 4 mg/2 mL Solution Sig: One (1)  
Injection Q8H (every 8 hours) as needed for nausea.  
4. Magnesium Hydroxide 400 mg/5 mL Suspension Sig: Thirty (30) 
ML PO Q6H (every 6 hours) as needed for no BM>2d.  
5. Senna 8.6 mg Tablet Sig: Two (2) Tablet PO BID (2 times a 
day).  
6. Heparin (Porcine) 5,000 unit/mL Solution Sig: One (1)  
Injection TID (3 times a day).  
7. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for 
constipation.  
8. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours).  
9. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day).  
10. Camphor-Menthol 0.5-0.5 % Lotion Sig: One (1) Appl Topical 
QID (4 times a day) as needed for Itchiness.  
11. Cyclobenzaprine 10 mg Tablet Sig: One (1) Tablet PO TID (3 
times a day) as needed for Spasm.  
12. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day).  
13. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
14. Magnesium Citrate 1.745 g/30mL Solution Sig: Three Hundred 
(300) ML PO ONCE MR1 (Once and may repeat 1 time) as needed for 
constipatino for 1 doses.  
15. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO BID (2 times a day) as needed 
for constipation.  
16. Oxycodone 5 mg Tablet Sig: ___ Tablets PO Q2H (every 2 
hours) as needed for Pain for 10 days.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
degenerative lumbar spondylosis
post op blood loss amemia requiring transfusion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
•        Do not smoke
•        Keep wound clean / No tub baths or pools until seen in 
follow up / begin daily showers ___
•        You have steri-strips in place – keep dry x 72 hours.  
Do not pull them off. They will fall off on their own or be 
taken off in the office
•        No pulling up, lifting> 10 lbs., excessive bending or 
twisting for two weeks.
•        Limit your use of stairs to ___ times per day
•        Have a family member check your incision daily for 
signs of infection
•        Take pain medication as instructed; you may find it 
best if taken in the a.m. when you wake if you experience muscle 
stiffness and before bed for sleeping discomfort
•        Do not take any anti-inflammatory medications such as 
Motrin, Advil, aspirin, Ibuprofen etc. for 3 months.
•        Increase your intake of fluids and fiber as pain 
medicine (narcotics) can cause constipation

Patient discharged to Northeast Rehab in ___
 
Followup Instructions:
___